US05142081
2,2-bis-trimethylsiloxymethyl-1-trimethylsiloxypropane
1 mole of trimethylol propane, 4 moles of trimethylchlorosilane and 0.003 moles of triethylbenzyl ammonium chloride were reacted at the reflux temperature (54°-104° C.) as in Example 1 and then worked up by distillation.

reactant | trimethylol propane | 1 mole | C(O)C(CC)(CO)CO | C6H14O3
reactant | trimethylchlorosilane | 4 moles | C[Si](Cl)(C)C | C3H9ClSi
catalyst | triethylbenzyl ammonium chloride | 0.003 moles | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2,2-bis-trimethylsiloxymethyl-1-trimethylsiloxypropane | C[Si](OCC(CO[Si](C)(C)C)(C)CO[Si](C)(C)C)(C)C | C14H36O3Si3
